US08304035B2
15.0 g (60.7 mmol) of ethyl 4-hydroxybiphenyl-4-carboxylate are dissolved in 500 ml of THF, and 200 ml of a 1 M solution of diisobutylaluminium hydride in toluene are added at −70° C. The cooling is subsequently removed, and the batch is stirred at room temp. for 2 h. After addition of 5 ml of isopropanol, the solution is added to water, extracted three times with MTB ether, and the combined org. phases are washed with water and dried over sodium sulfate. The solvent is removed in vacuo, and the residue is filtered through silica gel with toluene/ethyl acetate, giving 4′-hydroxymethyl-4-biphenylol as a colourless solid.

reactant | ethyl 4-hydroxybiphenyl-4-carboxylate | 60.7 mmol, 15.0 g | OC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)OCC | C15H16O3
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | THF | 500 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4′-hydroxymethyl-4-biphenylol | OCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O2
